US04760161
Step A: 1-(4'-Carboxyphenyl)-3-phenyl-trans-1-butene
A mixture of sodium hydride (50% in mineral oil; 3.4 g, 70 mmol) and dimethyl sulfoxide (50 ml) was heated to 75° for 1.5 hours under a nitrogen atmosphere. The solution was cooled to ambient temperature, and (4-carboxybenzyl)triphenylphosphonium bromide (18 g, 37 mmol) was added. The resulting red solution was stirred for 1 hour at ambient temperature. A solution of α-phenylpropionaldehyde (2.5 g, 19 mmol) in dimethyl sulfoxide (10 ml) was added over a ten minute period. Stirring was continued for an additional twenty minutes. The reaction mixture was poured into 0.2M sodium bisulfate, and the resulting mixture was extracted three times with ether. The combined ether extracts were washed with saturated aqueous sodium chloride, dried (sodium sulfate) and evaporated. The residue was subjected to column chromatography on silica gel (E. Merck No. 7734). Elution with 1% acetic acid in 1:1 hexane-ether afforded pure 1-(4'-carboxyphenyl)-3-phenyl-trans-1-butene as a white solid; yield 48 mg (10%); m.p. 127°-130°; mass spectrum m/z 252 (M), 237 (M--CH3).

reactant | sodium hydride | 70 mmol, 3.4 g | [H-].[Na+]
reactant | (4-carboxybenzyl)triphenylphosphonium bromide | 37 mmol, 18 g | [Br-].C(=O)(O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | α-phenylpropionaldehyde | 19 mmol, 2.5 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | sodium bisulfate | 0.2M | S([O-])(O)(=O)=O.[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-(4'-Carboxyphenyl)-3-phenyl-trans-1-butene | C(=O)(O)C1=CC=C(C=C1)\C=C\C(C)C1=CC=CC=C1 | C17H16O2
